US07799781B2
Preparation of 5-(5-ethyl-2,4-dihydroxy-phenyl)-4-(4-methoxyphenyl)-2H-pyrazole-3-carboxylic acid
6-Ethyl-7-hydroxy-3-(4-methoxyphenyl)-4-oxo-chromene-2-carboxylic acid (13.6 g, 41.73 mmol) and hydrazine monohydrate (6.1 ml, 125.19 mmol) were suspended in ethanol (200 ml) at room temperature. The mixture was then heated slowly to 70° C. and stirred at this temperature for 4 hours. The mixture was cooled to room temperature and all volatile components were removed in vacuum. The residue was partitioned between water (11) and Ethyl acetate (1.41). Then the aqueous phase was separated. The organic phase yielded some product. The remainder of the product was extracted from the aqueous phase with Ethyl acetate (4×500 ml). The combined organic extracts were dried over Magnesium sulfate and evaporated to dryness under vacuum resulting in a further quantity of the desired product. The combined isolated product portions yielded 6.99 g (51%) of a light brown solid. 1H NMR Spectrum: δH (400 MHz, DMSO-6d) 0.84 (3H t, J=7.5 Hz), 2.23 (2H q, J=7.5 Hz), 3.38 (1H s, br), 3.74 (3H, s), 6.36 (1H, s), 6.56 (1H, s), 6.85 (2H d, J=8.7 Hz), 7.13 (2H d, J=8.7 Hz), 9.3 (1H s, br), 9.4 (1H s, br), 12.8 (1H s, br); Mass Spectrum: (M+H+) 355.04, (M+H−) 353.09.

reactant | 6-Ethyl-7-hydroxy-3-(4-methoxyphenyl)-4-oxo-chromene-2-carboxylic acid | 41.73 mmol, 13.6 g | C(C)C=1C=C2C(C(=C(OC2=CC1O)C(=O)O)C1=CC=C(C=C1)OC)=O | C19H16O6
reactant | hydrazine monohydrate | 125.19 mmol, 6.1 ml | O.NN
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 5-(5-ethyl-2,4-dihydroxy-phenyl)-4-(4-methoxyphenyl)-2H-pyrazole-3-carboxylic acid | C(C)C=1C(=CC(=C(C1)C=1C(=C(NN1)C(=O)O)C1=CC=C(C=C1)OC)O)O | C19H18N2O5
